US05000946
A solution of 3-cyanopyridine (26.0 g, 0.25 mole) in dry diethyl ether (200 ml) was added dropwise over the hour to the Grignard reagent prepared from 1-bromo-3-methyl butane (40.7 g, 0.27 mole) and magensium (6.8 g, 0.26 mole) in dry diethyl ether (50 ml) under nitrogen. The mixture was heated at 35°C. for eight hours, cooled to room temperature, and diluted with cold saturated aqueous ammonium chloride solution (200 ml) followed by concentrated hydrochloric acid (50 ml). The mixture was stirred for five hours, the ether layer separated, and the aqeuous layer boiled for two hours. The aqueous layer was neutralised to pH9 with aqueous sodium hydroxide solution and extracted with diethyl ether (3×100 ml. The organic phase was dried (magnesium sulphate), concentrated under reduced pressure and distilled to give 3-methylbutyl 3-pyridyl ketone.

reactant | 3-cyanopyridine | 0.25 mole, 26.0 g | C(#N)C=1C=NC=CC1 | C6H4N2
reactant | 1-bromo-3-methyl butane | 0.27 mole, 40.7 g | BrCCC(C)C | C5H11Br
reactant | hydrochloric acid | 50 ml | Cl | ClH
reactant | diethyl ether | 200 ml | C(C)OCC | C4H10O
reactant | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | ammonium chloride | 200 ml | [Cl-].[NH4+]
product | 3-methylbutyl 3-pyridyl ketone | N1=CC(=CC=C1)C(=O)CCC(C)C | C11H15NO
